US05380742
13.1 1,3-Dibromo-5-[(1-triphenylmethyl-1H-imidazol-4-yl)methyl]-5,6-dihydro-4H-thieno[3, 4-c]pyrrole.
1.5 g (4.1 mmol) of 1,3-dibromo-5,6-dihydro-4H-thieno[3,4-c]pyrrole hydrobromide, 2.12 g (5.9 mmol) of 1-triphenylmethyl-4-chloromethylimidazole, 30 ml of dimethylformamide and 1.54 ml (9 mmol) of N,N-diisopropylethylamine are introduced into a 50 ml round-bottomed flask. The reaction mixture is subjected to ultrasound for 2 hours and is then poured onto ice. The precipitate obtained is filtered, washed with water, taken up in 50 ml of ethyl acetate, dried over sodium sulphate, filtered and evaporated to dryness. The residue is purified by chromatography on silica gel using the 1/1 ethyl acetate/hexane eluent mixture. 0.8 g of a white solid is obtained. Yield 32%.

reactant | 1,3-dibromo-5,6-dihydro-4H-thieno[3,4-c]pyrrole hydrobromide | 4.1 mmol, 1.5 g | Br.BrC=1SC(=C2C1CNC2)Br
reactant | 1-triphenylmethyl-4-chloromethylimidazole | 5.9 mmol, 2.12 g | C1(=CC=CC=C1)C(N1C=NC(=C1)CCl)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H19ClN2
reactant | N,N-diisopropylethylamine | 9 mmol, 1.54 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1,3-Dibromo-5-[(1-triphenylmethyl-1H-imidazol-4-yl)methyl]-5,6-dihydro-4H-thieno[3, 4-c]pyrrole | 0.8 g, Yield 32% | BrC=1SC(=C2C1CN(C2)CC=2N=CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)Br | C29H23Br2N3S
